US03932412
A mixture of 1.8 g. of 1-chloro-6,7-methylenedioxyisoquinoline and 5 g. of 5-hydroxypentylamine is heated at 140°C. for 5.5 hours. The resulting material is dissolved in methanol, sodium carbonate added and the resulting mixture refluxed for 15 minutes. The resulting mixture is filtered and evaporated in vacuo to an oil which is dissolved in chloroform. The resulting solution is evaporated in vacuo and the residue purified by chromatography over silica gel. The resulting oily product is then crystallized from ethanol/ethyl acetate and recrystallized from ethyl acetate/methanol to obtain 1-(5-hydroxypentyl)amino-6,7-methylenedioxyisoquinoline, m.p. 132.5°-134°C.

reactant | 1-chloro-6,7-methylenedioxyisoquinoline | ClC1=NC=CC2=CC3=C(C=C12)OCO3 | C10H6ClNO2
reactant | 5-hydroxypentylamine | OCCCCCN | C5H13NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 1-(5-hydroxypentyl)amino-6,7-methylenedioxyisoquinoline | OCCCCCNC1=NC=CC2=CC3=C(C=C12)OCO3 | C15H18N2O3
